US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-5-methylisoxazole-4-carboxamide
Using N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (162 mg, 0.50 mmol), N-methylpyrrolidone (5 mL) and 5-methylisoxazole-4-carbonyl chloride (146 mg, 1.0 mmol), and in the same manner as in Example 162, the title compound (174 mg, yield 80%) was obtained.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 162 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 5-methylisoxazole-4-carbonyl chloride | 1.0 mmol, 146 mg | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-5-methylisoxazole-4-carboxamide | 174 mg, yield 80% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2C=NOC2C)C)C1 | C22H20N6O4
